US07547710B2
To a solution of tert-butyl {[6-(cyanomethoxy)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.46 g, 1.0 mmol) and sodium azide (0.13 g, 2.0 mmol) in dimethyl sulfoxide (10 ml) was added ammonium chloride (0.22 g, 4.0 mmol), and the mixture was stirred at 70° C. for 24 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diisopropyl ether to give tert-butyl {[2-isobutyl-4-(4-methylphenyl)-6-(2H-tetrazol-5-ylmethoxy)quinolin-3-yl]methyl}carbamate (0.47 g, yield 93%) as pale-yellow crystals.

reactant | tert-butyl {[6-(cyanomethoxy)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 1.0 mmol, 0.46 g | C(#N)COC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C28H33N3O3
reactant | sodium azide | 2.0 mmol, 0.13 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.0 mmol, 0.22 g | [Cl-].[NH4+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | tert-butyl {[2-isobutyl-4-(4-methylphenyl)-6-(2H-tetrazol-5-ylmethoxy)quinolin-3-yl]methyl}carbamate | 0.47 g, yield 93% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OCC=1N=NNN1 | C28H34N6O3
